US07361675B2
To 3 ml of N,N-dimethylformamide were added 160 mg of a mixture of 3-methylsulfinyl-5-phenyl-1,2,4-thiadiazole and 3-methylsulfonyl-5-phenyl-1,2,4-thiadiazole (integration ratio of 1H-NMR sulfonyl form:sulfinyl form=4:1) and 60 mg of propargyl alcohol, and to the resulting mixture was added 43 mg of sodium hydride (60% oily) with ice-cooling. The mixture was stirred for 20 minutes with ice-cooling, and allowed to stand at room temperature for 18 hours. Then, the reaction mixture was poured into an aqueous saturated sodium chloride solution, and the mixture was extracted with t-butyl methyl ether. The organic layer was concentrated, and the resulting residue was subjected to silica gel column chromatography to obtain 100 mg of 5-phenyl-3-propargyloxy-1,2,4-thiadiazole (the compound (1) of the present invention).

reactant | 3-methylsulfinyl-5-phenyl-1,2,4-thiadiazole | CS(=O)C1=NSC(=N1)C1=CC=CC=C1 | C9H8N2OS2
reactant | 3-methylsulfonyl-5-phenyl-1,2,4-thiadiazole | CS(=O)(=O)C1=NSC(=N1)C1=CC=CC=C1 | C9H8N2O2S2
reactant | propargyl alcohol | 60 mg | C(C#C)O | C3H4O
reactant | sodium hydride | 43 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-phenyl-3-propargyloxy-1,2,4-thiadiazole | 100 mg | C1(=CC=CC=C1)C1=NC(=NS1)OCC#C | C11H8N2OS
